US06911463B2
3-[3-(2-tert-Butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl]-acrylamide is prepared from [1,1-dimethyl-2-(7-trifluoromethanesulfonylmethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester and acrylamide as described for the preparation of Amine 23 (98%). FDMS m/e=356.2 (M++1).

reactant | [1,1-dimethyl-2-(7-trifluoromethanesulfonylmethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)CS(=O)(=O)C(F)(F)F)(C)C)=O | C19H25F3N2O4S
reactant | acrylamide | C(C=C)(=O)N | C3H5NO
product | 3-[3-(2-tert-Butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl]-acrylamide | C(C)(C)(C)OC(=O)NC(CC1=CNC2=C(C=CC=C12)C=CC(=O)N)(C)C | C20H27N3O3
